US09062027B2
1.5 N-[4-(Cyclopropylamino)-3,4-dioxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide
To a solution of N-[4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide (116 mg, 0.255 mmol) in dichloromethane (30 ml) Dess-Martin periodinane (commercial solution of 15% by weight in dichloromethane; 1 ml, 0.460 mmol) was added and the mixture stirred for 5 minutes. The reaction was then quenched by adding a saturated aqueous solution of sodium hydrogen carbonate (NaHCO3) and water (25 ml each). Afterwards the organic layer was washed twice with water, dried over magnesium sulfate (MgSO4), filtered and concentrated under reduced pressure. The obtained residue was treated with n-pentane (100 ml), filtered off and then refluxed in a mixture of methyl-tert.-butylether (15 ml) and a 4 N solution of HCl in dioxane (50 μl). After stirring for 2 hr at room temperature the solid was filtered off under suction and recrystallized from isopropanol to give 70 mg of the title compound as a white solid.

reactant | N-[4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide | 0.255 mmol, 116 mg | C1(CC1)NC(C(C(CC1=CC=CC=C1)NC(C1=C(N=CC=C1)N1N=C2C=CC=CC2=C1)=O)O)=O | C26H25N5O3
reactant | dichloromethane | 0.460 mmol, 30 ml | ClCCl | CH2Cl2
product | N-[4-(Cyclopropylamino)-3,4-dioxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide | 70 mg | C1(CC1)NC(C(C(CC1=CC=CC=C1)NC(C1=C(N=CC=C1)N1N=C2C=CC=CC2=C1)=O)=O)=O | C26H23N5O3
